US04281000
7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid
A mixture of 6.0 g. of ethyl 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate, 125 ml. of ethanol and 50 ml. of 1 N sodium hydroxide is heated on a steam bath for 4 hours. The mixture is chilled and filtered to give 5.85 g. of sodium 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate, m.p. 360°-363° C. dec. The preceding compound is stirred with 1 N hydrochloric acid and the mixture is filtered to give 5.0 g. of the product of the example, m.p. 286°-287° C. dec. (gas evolution).

reactant | ethyl 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)OCC | C14H12N4O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)[O-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)O | C12H8N4O2
